US09126931B2
{3-Bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]carbazol-5-yl}-acetic acid methyl ester
Under nitrogen atmosphere, 3-bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one (Compound T22-1, 40.0 mg, 65.2 μmol) was dissolved in DMF (0.20 mL), added at 0° C. with methyl bromoacetate (30.5 μL, 134.5 μmol) and sodium hydride (4.5 mg, 132 μmol), and then stirred at room temperature for 2 hr. The residues obtained from the reaction solution after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (44.5 mg, 85%).

reactant | 3-bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy]-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | 65.2 μmol, 40.0 mg | BrC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC[C@H]4OC(O[C@@H]4CO[Si](C)(C)C(C)(C)C)(C)C)=O | C31H40BrNO5Si
reactant | methyl bromoacetate | 134.5 μmol, 30.5 μL | BrCC(=O)OC | C3H5BrO2
reactant | sodium hydride | 132 μmol, 4.5 mg | [H-].[Na+]
solvent | DMF | 0.20 mL | CN(C)C=O | C3H7NO
product | {3-Bromo-8-[(4R,5R)-5-(tert-butyldimethylsilanyloxymethyl)-2,2-dimethyl-[1,3]dioxolan-4-yl methoxy]-6,6-dimethyl-11-oxo-6,11-dihydro-benzo[b]carbazol-5-yl}-acetic acid methyl ester | 44.5 mg, 85% | COC(CN1C2=CC(=CC=C2C=2C(C3=C(C(C12)(C)C)C=C(C=C3)OC[C@H]3OC(O[C@@H]3CO[Si](C)(C)C(C)(C)C)(C)C)=O)Br)=O | C34H44BrNO7Si
